US04305943
A-1. Diethyl hydroxy[2-oxo-2-(4-pyridinyl)ethyl]propanedioate
A-6. Diethyl hydroxy[2-oxo-2-(2,6-dimethyl-4-pyridinyl)ethyl]propanedioate using 4-acetyl-2,6-dimethylpyridine.

reactant | Diethyl hydroxy[2-oxo-2-(2,6-dimethyl-4-pyridinyl)ethyl]propanedioate | OC(C(=O)OCC)(C(=O)OCC)CC(C1=CC(=NC(=C1)C)C)=O | C16H21NO6
reactant | 4-acetyl-2,6-dimethylpyridine | C(C)(=O)C1=CC(=NC(=C1)C)C | C9H11NO
product | Diethyl hydroxy[2-oxo-2-(4-pyridinyl)ethyl]propanedioate | OC(C(=O)OCC)(C(=O)OCC)CC(C1=CC=NC=C1)=O | C14H17NO6
